US07037935B2
In an analogous manner to that described in Example 36d), the esterification of (RS)-1-{4-[2-(3-fluoro-phenyl)-ethyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid and reaction of the intermediate acid chloride with methylamine yields the (RS)-1-{4-[2-(3-fluoro-phenyl)-ethyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid methylamide as a light yellow solid; MS: m/e=341 (M+H)+.

reactant | (RS)-1-{4-[2-(3-fluoro-phenyl)-ethyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid | FC=1C=C(C=CC1)CCC1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C19H18FNO3
reactant | methylamine | CN | CH5N
product | (RS)-1-{4-[2-(3-fluoro-phenyl)-ethyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid methylamide | CNC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)CCC1=CC(=CC=C1)F | C20H21FN2O2
